US06211234B1
A solution of ethyl (RS)-4-[2-acetyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)-butanoate (0.5 g) in ethanol (5 mL) is treated with pyridine-2-carboxaldehyde (0.12 g) and aqueous sodium hydroxide solution (0.95 g; 33% w/w) and stirred at 25° C. for 90 minutes. The solution is diluted with water and then brought to pH 7 by treatment with hydrochloric acid (2 M), forming a yellow gum. This gum is extracted with ethyl acetate, and the extract is washed with water, dried and evaporated. The resulting residue is subjected to flash chromatography on silica gel, eluting with a mixture of ethyl acetate and pentane (65:35 v/v), followed by trituration with pentane, to give (E)-(RS)-4-(2-methylphenyl)-4-[2-{3-(2-pyridyl) prop-2-enoyl}-5-(3-thienylmethoxy)phenoxy]butanoic acid (0.22 g) in the form of a yellow solid, m.p. 65-70° C. [NMR(CDCl3):- 2.1-2.9 (4H,m),2.4(3H,s),4.9(2H,q),5.6(1H,q), 6.2-7.6(12H),7.7(1H,d,J=16 Hz),7.8(1H,t), 8.0(1H,d,J=16 Hz),8.6(1H,d)].

reactant | ethyl (RS)-4-[2-acetyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)-butanoate | 0.5 g | C(C)(=O)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C26H28O5S
reactant | pyridine-2-carboxaldehyde | 0.12 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium hydroxide | 0.95 g | [OH-].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | (E)-(RS)-4-(2-methylphenyl)-4-[2-{3-(2-pyridyl) prop-2-enoyl}-5-(3-thienylmethoxy)phenoxy]butanoic acid | 0.22 g | CC1=C(C=CC=C1)C(CCC(=O)O)OC1=C(C=CC(=C1)OCC1=CSC=C1)C(\C=C\C1=NC=CC=C1)=O | C30H27NO5S
